US05064569
3.1 g of dicyclohexylcarbodiimide in 5 ml of methylene chloride are added dropwise to a mixture of 4.9 g of optically active hydroquinone 4-cyano-4--(3,7-dimethyloctyl)-cyclohexanecarboxylate (obtainable by esterification of 4-cyano-4-(3,7-dimethyloctyl)-cyclohexanecarboxylic acid with hydroquinone monobenzyl ether and subsequent removal of the benzyl group by catalytic hydrogenation), 1.87 g of optically active 2-chloro-3-methylbutyric acid and 170 mg of 4-N,N'-dimethylaminopyridine in 30 ml of methylene chloride at 0° with exclusion of moisture. After the mixture has been stirred at room temperature for 12 hours and filtered and the filtrate has been worked up in the customary manner, optically active p-(4-cyano-4-(3,7-dimethyloctyl)-cyclohexylcarbonyloxy)-phenyl 2-chloro-3-methylbutyrate is obtained.

reactant | dicyclohexylcarbodiimide | 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroquinone 4-cyano-4--(3,7-dimethyloctyl)-cyclohexanecarboxylate | C(#N)C1(CCC(CC1)C(=O)O)CCC(CCCC(C)C)C.C1(O)=CC=C(O)C=C1
reactant | 4-cyano-4-(3,7-dimethyloctyl)-cyclohexanecarboxylic acid | C(#N)C1(CCC(CC1)C(=O)O)CCC(CCCC(C)C)C | C18H31NO2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | p-(4-cyano-4-(3,7-dimethyloctyl)-cyclohexylcarbonyloxy)-phenyl 2-chloro-3-methylbutyrate | ClC(C(=O)OC1=CC=C(C=C1)OC(=O)C1CCC(CC1)(CCC(CCCC(C)C)C)C#N)C(C)C | C29H42ClNO4
